US08202868B2
c.2.3: (R)-3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propan-1-ol
5.81 g of crude (R)-acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester (asserted 14.1 mmol)) were stirred in 26.6 ml of ethanol. A solution of 2.83 g of sodium hydroxide in 6 ml of water was added and the reaction mixture was heated at 60-70° C. for 5 h. After cooling to room temperature, 50 ml of water and 50 ml of dichloromethane were added. The dichloromethane layer was separated and the aqueous was extracted with a further portion of dichloromethane. The combined dichloromethane extracts were washed with water, dried over magnesium sulfate, filtered and evaporated under vacuum to give an orange oil (4.0 g).

reactant | (R)-acetic acid 3-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propyl ester | 14.1 mmol, 5.81 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)C[C@H](COC(C)=O)C)C1CCC1 | C22H36N4O2
reactant | sodium hydroxide | 2.83 g | [OH-].[Na+]
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethanol | 26.6 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | (R)-3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propan-1-ol | 4.0 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)C[C@H](CO)C)C1CCC1 | C20H34N4O
